US09108938B2
2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-pyridin-3-yl-ethyl)-benzamide
From 2-chloro-5-methylbenzoic acid and (2-morpholin-4-yl-2-pyridin-3-ylethyl)amine. LCMS (MH+): m/z=360.0, tR (minutes, Method A)=0.77

reactant | 2-chloro-5-methylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | (2-morpholin-4-yl-2-pyridin-3-ylethyl)amine | N1(CCOCC1)C(CN)C=1C=NC=CC1 | C11H17N3O
product | 2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-pyridin-3-yl-ethyl)-benzamide | ClC1=C(C(=O)NCC(C=2C=NC=CC2)N2CCOCC2)C=C(C=C1)C | C19H22ClN3O2
